US08048909B2
{1-[5-(2-Fluorophenyl)-2-methyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine fumarate
A suspension of tert-butyl {1-[5-bromo-2-methyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (369 mg), (2-fluorophenyl)boronic acid (234 mg), sodium carbonate (265 mg) and tetrakis(triphenylphosphine)palladium (48.9 mg) in 1,2-dimethoxyethane (15 mL) and water (7.5 mL) was stirred at 105° C. for 12 hr. After cooling to room temperature, water was added and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, filtered, concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=1:4) to give N-Boc compound of the title compound. This was dissolved in ethanol (5 mL), and a 4 mol/L hydrogen chloride-ethyl acetate solution (2 mL) was added and the mixture was stirred at room temperature for 4 hr. The reaction mixture was concentrated under reduced pressure, and the residue was neutralized with saturated aqueous sodium hydrogencarbonate solution (50 mL). The mixture was extracted with ethyl acetate, and the extract was washed with saturated aqueous sodium hydrogencarbonate solution, water, saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: ethyl acetate), and further purified by HPLC (ODS, 0.1% trifluoroacetic acid containing water-0.1% trifluoroacetic acid containing acetonitrile=9:1→0.1% trifluoroacetic acid containing acetonitrile) to give trifluoroacetate of the title compound. The obtained trifluoroacetate was neutralized with saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed successively with saturated aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give a free base of the title compound (yield 65 mg). The free base (62 mg) was dissolved in ethyl acetate (2 mL), a solution of fumaric acid (17 mg) in methanol (2 mL) was added, and the mixture was stirred for 10 min. The reaction mixture was concentrated under reduced pressure, and the residue was recrystallized from ethanol to give the title compound as white crystals (yield 25 mg, 7%).

reactant | tert-butyl {1-[5-bromo-2-methyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 369 mg | BrC1=CC(=C(N1S(=O)(=O)C=1C=NC=CC1)C)CN(C(OC(C)(C)C)=O)C | C17H22BrN3O4S
reactant | (2-fluorophenyl)boronic acid | 234 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 265 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 7.5 mL | O | H2O
solvent | 1,2-dimethoxyethane | 15 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 48.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[5-(2-Fluorophenyl)-2-methyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine fumarate | C(\C=C\C(=O)O)(=O)O.FC1=C(C=CC=C1)C1=CC(=C(N1S(=O)(=O)C=1C=NC=CC1)C)CNC | InChI=1S/C18H18FN3O2S.C4H4O4/c1-13-14(11-20-2)10-18(16-7-3-4-8-17(16)19)22(13)25(23,24)15-6-5-9-21-12-15;5-3(6)1-2-4(7)8/h3-10,12,20H,11H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
